US08012976B2
The mixture of benzyl 4-(diethoxymethyl)benzyl(methyl)carbamate (1.0 g, 2.8 mmol) in 3N hydrochloric acid (50 ml) was stirring at room temperature for 1 h. Then the mixture was neutralized with Potassium carbonate. The resulting mixture was extracted with ethyl acetate (100 mL×4), the organic phase was washed with water and saturated sodium bicarbonate, dried with anhydrous sodium sulfate and concentrated to give benzyl 4-formylbenzyl(methyl)carbamate (730 mg, 92%). 1H-NMR (400 MHz, CDCl3) δ: 2.94 (d, 3H), 4.572 (d, 2H), 5.18 (d, 2H), 7.32-7.39 (m, 7H), 7.84 (m, 2H), 10.00 (s, 1H); LC-MS (ESI) m/z: 284 (M+1)+.

reactant | benzyl 4-(diethoxymethyl)benzyl(methyl)carbamate | 2.8 mmol, 1.0 g | C(C)OC(C1=CC=C(CN(C(OCC2=CC=CC=C2)=O)C)C=C1)OCC | C21H27NO4
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 3N, 50 ml | Cl | ClH
product | benzyl 4-formylbenzyl(methyl)carbamate | 730 mg, 92% | C(=O)C1=CC=C(CN(C(OCC2=CC=CC=C2)=O)C)C=C1 | C17H17NO3
